US07205408B2
(a) Methyl 3-(4-formyl-2-nitrophenylsulfanyl)propionate
To a solution of 4-chloro-3-nitrobenzaldehyde (2.60 g, 0.014 mole) and methyl 3-mercaptopropionate (1.92 g, 0.016 mole) in DMF (10 mL) was added anhydrous K2CO3 (2.07 g, 0.016 mole). After stirring at ambient temperature for 16 hr, the reaction was quenched with ice water. The precipitated product was collected by suction filtration, washed well with water, and dried in vacuo to give a bright yellow solid (3.65 g, 97%).

reactant | 4-chloro-3-nitrobenzaldehyde | 0.014 mole, 2.60 g | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | methyl 3-mercaptopropionate | 0.016 mole, 1.92 g | SCCC(=O)OC | C4H8O2S
reactant | K2CO3 | 0.016 mole, 2.07 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 3-(4-formyl-2-nitrophenylsulfanyl)propionate | 3.65 g, 97% | C(=O)C1=CC(=C(C=C1)SCCC(=O)OC)[N+](=O)[O-] | C11H11NO5S
